Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M w/PMHx EtOH abuse was transferred from ___ to 
___ for concerns for hemodynamic instability in the setting of 
recent EtOH relapse. At the time of admission, pt did not want 
to speak with me, so the history is largely derived from 
discussion with ___. Pt started drinking 1 quart 
of whiskey each day after being released from prison 2 weeks 
ago. He was initially brought to ___ after 
disruptive public behavior while intoxicated. Per report, he may 
have hit his head against a bus window during this time. Of 
note, pt had a forehead laceration on presentation to ___, 
although it is unclear if patient had a CT head at ___. Pt was 
subsequently transferred to ___ on ___ and placed on 
CIWA w/Ativan 1mg PO Q6H. He received a total of 10mg Ativan 
between ___. Per report from nursing at ___, pt 
was doing better over the course of the past several days. 
Yesterday, pt was pleasant and oriented, and he was making phone 
calls to substance abuse treatment facilities in anticipation of 
discharge. However, at approximately 3pm yesterday afternoon, pt 
started having auditory hallucinations over the course of the 
day. Notably, pt had previously endorsed auditory hallucinations 
for "his entire life". Pt subsequently became agitated and ran 
out of his room and jumped over a desk and into the nursing 
station. During this time, he developed BPs to 170's-180's/110's 
with ___ ___ the 110's. He was given Ativan 1mg IV and thorazine 
50mg IV with decrease in BP and HR. He was subsequently 
transferred to ___ over concern for HD instability. Per report 
from ___, pt has not history of DTs or withdrawal 
seizures.

On arrival to ___ ED, VS were: 98.4; 104; 130/89; 20; 95% RA. 
Labs were notable for ALT/AST 46/39;  AP 70; Tbili 0.3. CBC and 
chem-7 were unremarkable. UDS was grossly negative. Pt received 
2mg lorazepam IV and 5mg Haldol IV and transferred to the floor 
for further management.

On arrival to the floor, VS were 97.5; 118/86; 110; 18; 98% RA. 
Pt was very agitated with transferring from stretcher to chair. 
He was subsequently very sleepy. He was oriented to year, but 
not month. He did not know where he was. He denied any pain. He 
otherwise declined to answer any additional ROS questions.

 
Past Medical History:
Hepatitis C
EtOH abuse
History of auditory hallucinations, but no clear dx of bipolar
History of multiple suicide attempts
History of polysubstance abuse (cocaine, IVD, marijuana
 
Social History:
___
Family History:
Unknown as pt unable to tell us at the time of admission
 
Physical Exam:
On Admission:
VS: 97.5; 118/86; 110; 18; 98% RA
General: Middle aged man in NAD. Pt was very sleepy but 
arousable. Oriented to person and year. Not oriented to 
place/month
HEENT: Pupils ~2mm, reactive. MMM. Laceration Left forehead, 
CDI.
CV: RRR. No MRG
Abdomen: Soft, NTND.
Extremities: ___ strength grossly in all extremities. 2+ DP 
pulses. No c/c/e.
Neuro: Face grossly symmetric. CNII-XII grossly intact.

On Discharge:
VS: 97.5; 118/86; 110; 18; 98% RA
General: Middle aged man in NAD. Pt was very sleepy but 
arousable. Oriented to person and year. Not oriented to 
place/month
HEENT: Pupils ~2mm, reactive. MMM. Laceration Left forehead, 
CDI.
CV: RRR. No MRG
Abdomen: Soft, NTND.
Extremities: ___ strength grossly in all extremities. 2+ DP 
pulses. No c/c/e.
Neuro: Face grossly symmetric. CNII-XII grossly intact.
 
Pertinent Results:
On Admission:
___ 02:01AM BLOOD WBC-6.1 RBC-4.48* Hgb-14.4 Hct-41.5 
MCV-93 MCH-32.1* MCHC-34.7 RDW-13.3 RDWSD-44.0 Plt ___
___ 02:01AM BLOOD Neuts-54.9 ___ Monos-8.8 Eos-4.2 
Baso-0.5 Im ___ AbsNeut-3.36 AbsLymp-1.92 AbsMono-0.54 
AbsEos-0.26 AbsBaso-0.03
___ 02:01AM BLOOD Glucose-110* UreaN-14 Creat-0.8 Na-138 
K-4.2 Cl-103 HCO3-25 AnGap-14
___ 02:01AM BLOOD ALT-46* AST-39 AlkPhos-70 TotBili-0.3
___ 02:01AM BLOOD Albumin-4.6
___ 02:01AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

On Discharge:
___ 07:40AM BLOOD WBC-5.1 RBC-4.83 Hgb-15.4 Hct-45.4 MCV-94 
MCH-31.9 MCHC-33.9 RDW-13.5 RDWSD-45.9 Plt ___
___ 07:40AM BLOOD Glucose-102* UreaN-17 Creat-0.9 Na-142 
K-4.6 Cl-107 HCO3-27 AnGap-13
___ 07:40AM BLOOD ALT-42* AST-39 AlkPhos-75 TotBili-0.4
___ 07:40AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.2

Imaging:
___ CT Head without contrast:
IMPRESSION: 
1. No evidence of a hemorrhage, infarction, or other acute 
intracranial 
abnormalities. 
2. Bilateral anterior nasal bone fractures of indeterminate age. 


 
Brief Hospital Course:
___ y/o M w/PMHx EtOH abuse was transferred from ___ to 
___ for concerns for hemodynamic instability and AMS in the 
setting of recent EtOH relapse.

#AMS: On admission, pt was very somnolent, but arousable. CT 
head showed no acute process. He gradually became less 
somnolent, and his Trileptal was held. He was oriented to person 
during this admission, but otherwise did not know location or 
specific date (he believed it was ___. His altered mental 
status on presentation was felt to be secondary to having 
received multiple sedating medications both prior to coming to 
___ and in the ED. With regards to his previous agitation at 
___, it was unclear what the exact etiology was. He was 
seen by psychiatry who felt that he could have a substance abuse 
mood disorder, although a psychotic disorder could not be ruled 
out.

#Hemodynamic instability: Pt was hemodynamically stable during 
this admission. Tachycardia/hypertension prior to admission was 
likely a normal adrenergic response to activity. Given that pt 
has had minimal need for benzos at ___, combined with the 
fact that his last drink was likely ___, it was felt to be 
unlikely that his tachycardia/hypertension was from acute EtOH 
withdrawal. 

#Depression: Pt endorsed SI, which has been ongoing for several 
years. He denied any intent or HI. He also denied any history of 
suicide attempts despite ___ records that suggested otherwise. 

#EtOH abuse: Pt was initially started on CIWA while 
hospitalized, but did not demonstrate sx of withdrawal. He was 
maintained on folate, thiamine and a MV.

Transitional Issues:
-Trileptal, chlorpromazine, diphenhydramine, trazadone and 
hydroxyzine were held this admission given sedation
-Please titrate psychiatric medications as needed as an 
outpatient
-Continue substance abuse treatment
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine 10 mg PO QHS 
2. FoLIC Acid 1 mg PO DAILY 
3. Oxcarbazepine 300 mg PO BID 
4. TraZODone 100 mg PO QHS 
5. Thiamine 100 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Milk of Magnesia 30 mL PO QHS:PRN constipation 
8. Mylanta 30 ml oral Q4H:PRN Dysoepsia 
9. HydrOXYzine 50 mg PO Q6H:PRN anxiety 
10. ChlorproMAZINE 50 mg PO Q6H:PRN Auditory hallucinations 
11. Acetaminophen 650 mg PO Q6H:PRN Pain 
12. DiphenhydrAMINE 50 mg PO QHS:PRN Insomnia 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN Pain 
2. FoLIC Acid 1 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. OLANZapine 10 mg PO QHS 
5. Thiamine 100 mg PO DAILY 
6. Mylanta 30 ml oral Q4H:PRN Dysoepsia 
7. Milk of Magnesia 30 mL PO QHS:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Delirium
Substance abuse disorder
Alcohol abuse

 
Discharge Condition:
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ 
because you were confused and sleepy. This was most likely 
related to the medications you received prior to admission. We 
limited the number of medications you received during this 
hospitalization, and you improved. You are being discharged to 
___, where you can continue your recovery. We 
strongly encourage you to abstain from any further alcohol use.

It was a pleasure to help care for you during this 
hospitalization, and we wish you all the best in the future.

Sincerely,
Your ___ Team
 
Followup Instructions:
___